US05324747
A mixture of 2.63 g (3.67 mmol) of N-[3-(methoxycarbonyl)-5-(octadecyloxy)phenyl]-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester and 0.5 g of 10% palladium on carbon in 150 ml of THF was shaken in a hydrogen atmosphere at room temperature for 3 hours. The catalyst was removed by filtration and the filtrate was concentrated to a solid which was recrystallized from methanol-water to give 1.84 g (93% yield, mp 119°-123°) of N-(carboxymethyl)-N-[3-(methoxy-carbonyl)-5-(octadecyloxy)phenyl]glycine.

reactant | N-[3-(methoxycarbonyl)-5-(octadecyloxy)phenyl]-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester | 3.67 mmol, 2.63 g | C1(=CC=CC=C1)COC(CN(CC(=O)OCC1=CC=CC=C1)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)C(=O)OC)=O | C44H61NO7
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | N-(carboxymethyl)-N-[3-(methoxy-carbonyl)-5-(octadecyloxy)phenyl]glycine | 1.84 g, 93% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)C(=O)OC | C30H49NO7
